US08895566B2
Acetone (0.0195 mL, 0.266 mmol) was added to a solution of 2-(4-chlorophenyl)-2-(6-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-1H-indol-3-yl)ethanamine (107 mg, 0.266 mmol) and N,N-diisopropylethylamine (0.139 mL, 0.797 mmol) in methylene chloride (2.0 mL). The reaction mixture was stirred for 10 minutes, and then sodium triacetoxyborohydride (0.0188 g, 0.0885 mmol) was added. After stirring for 2.5 hours, saturated NaHCO3 was added, and the mixture was stirred vigorously 10 minutes. The mixture was extracted with DCM (3×10 mL). The combined organic were dried (Na2SO4), filtered and concentrated. The crude product was purified by SFC chiral chromotagraphy (Chiral OJH (21.2×250 mm) 25% methanol+0.1% TEA) to give N-((R)-2-(4-chlorophenyl)-2-(6-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-1H-indol-3-yl)ethyl)propan-2-amine (19.8 mg, 16.8%) as the first peak. LCMS: M+1 445.3. 1H NMR (CDCl3, 400 MHz) δ 11.16 (s, 1H), 8.93 (s, 1H), 7.93 (s, 1H), 7.49-7.46 (m, 3H), 7.38 (d, J=8.4 Hz, 2H), 7.31 (d, J=8.5 Hz, 2H), 4.36 (t, 1H), 3.89 (m, 1H), 3.23 (m, 1H), 3.14-2.99 (m, 2H), 2.94-2.86 (m, 1H), 2.77 (m, 1H), 2.34 (m, 1H), 1.68 (m, 1H), 0.96 (d, 6H), 0.92 (d, 3H).

reactant | Acetone | 0.266 mmol, 0.0195 mL | CC(=O)C | C3H6O
reactant | 2-(4-chlorophenyl)-2-(6-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-1H-indol-3-yl)ethanamine | 0.266 mmol, 107 mg | ClC1=CC=C(C=C1)C(CN)C1=CNC2=CC(=CC=C12)C=1C2=C(N=CN1)CC[C@H]2C | C24H23ClN4
reactant | N,N-diisopropylethylamine | 0.797 mmol, 0.139 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium triacetoxyborohydride | 0.0885 mmol, 0.0188 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
product | N-((R)-2-(4-chlorophenyl)-2-(6-((R)-5-methyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)-1H-indol-3-yl)ethyl)propan-2-amine | 19.8 mg, 16.8% | ClC1=CC=C(C=C1)[C@@H](CNC(C)C)C1=CNC2=CC(=CC=C12)C=1C2=C(N=CN1)CC[C@H]2C | C27H29ClN4
